US06265575B1
Part A. 4-[2-(Dimethylamino)ethoxy]phenyl 2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl Ketone Dioxalate
The title compound was prepared from 4-fluorophenyl 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl ketone (Example 132, Part A) and 2-(dimethylamino)ethanol in 55% yield after radial chromatography (SiO2; gradient of 98:1.5:0.5 to 95:4:1 CHCl3—MeOH—NH4OH) by essentially following the procedure described in Example 132, Part B.

reactant | 4-fluorophenyl 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl ketone | N1(CCCC1)CCOC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=C(C=C2)F | C27H24FNO2S
reactant | 2-(dimethylamino)ethanol | CN(CCO)C | C4H11NO
reactant | CHCl3 MeOH NH4OH | C(Cl)(Cl)Cl.CO.[NH4+].[OH-]
product | 4-[2-(Dimethylamino)ethoxy]phenyl 2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl Ketone Dioxalate | 55% yield | C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.N1(CCCC1)CCOC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=C(C=C2)OCCN(C)C | InChI=1S/C31H34N2O3S.2C2H2O4/c1-32(2)19-21-35-25-13-9-23(10-14-25)30(34)29-27-7-3-4-8-28(27)37-31(29)24-11-15-26(16-12-24)36-22-20-33-17-5-6-18-33;2*3-1(4)2(5)6/h3-4,7-16H,5-6,17-22H2,1-2H3;2*(H,3,4)(H,5,6)
